US05089507
2-(pyrrolidin-1-yl)carbonyl-3-hydroxy piperidine (diastereoisomeric amines mixture)
10 g (0.052 moles) of 2-(pyrrolidin-1-yl)carbonyl-3-hydroxy pyridine, dissolved in 100 ml of acetic acid and 8 mml of trifluoroacetic acid, were hydrogenated at 40 psi over 1 g of PtO2 at room temperature, until the theoretical amount of hydrogen was consumed. The catalyst was filtered off and the filtrate evaporated in vacuo. The residue was taken up in 20% NaOH and extracted with CH2Cl2, which was dried and evaporated in vacuo to dryness. 8.5 g of the title compound were obtained as a 80/20 diastereoisomeric mixture, which was used for the subsequent step without further purification.

reactant | 2-(pyrrolidin-1-yl)carbonyl-3-hydroxy pyridine | 0.052 moles, 10 g | N1(CCCC1)C(=O)C1=NC=CC=C1O | C10H12N2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 1 g | O=[Pt]=O
product | 2-(pyrrolidin-1-yl)carbonyl-3-hydroxy piperidine | 8.5 g | N1(CCCC1)C(=O)C1NCCCC1O | C10H18N2O2
